Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
latex
 
Attending: ___.
 
Chief Complaint:
neck pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ y/o man with multiple myeloma on chemotherapy 
(Pamolist - last in early ___ and radiation therapy since 
___, presenting with ongoing neck pain.  He was recently seen 
at the ___ on ___ with severe neck pain (especially 
with movement and radiation down to upper arms, no weakness).  
He had an MRI which demonstrated multiple lytic lesions c/w MM 
and severe spinal stenosis with impingement on the cord from 
C4-C6.  He was referred over for radiation therapy that day and 
underwent two sessions with Dr. ___ at ___ on ___ and 
___.  Due to uncontrolled pain on oxycodone, he represented to 
the ___.  They were concerned for need for possible 
neurosurgical intervention so sent the patient to ___. 

He was seen by Neurosurgery in the ED and was noted to have a 
normal neurologic exam with the exception of his symptoms and 
+L'Hermite's sign due to his cervical spine issues.  I spoke 
with the neurosurgery attending - no role for intervention given 
he is undergoing radiation, but collar was placed and should 
stay on at all times and patient needs to follow-up with them in 
2 weeks.  He was admitted for pain control and further work-up.  
Per neurosurgery, MRI T and L spine can happen as an outpatient.

Currently, patient is doing OK - reports IV dilaudid worked in 
the ED (1 mg, 1.5 mg).  No numbness, tingling, LOS, or weakness. 
 Only complaint is neck pain with radiation to upper arms.  No 
urinary incontinence or stool incontinence.  Ambulating fine.  
Feels oxycodone does not help.  Of note, ran out of xarelto for 
the last 1 week and did not get this refilled.  No f/c/s, 
n/v/abd pain/diarrhea.  No SOB, chest pain, ___ edema. 

12-pt ROS otherwise negative in detail. 
 
Past Medical History:
- Multiple myeloma - followed at Medical Oncology in ___, 
was on Pomalist recently (last dosed in early ___, per 
covering Oncologist there he is in partial remission so 
chemotherapy held for now.  Had radiation to cervical spine 
lesions on ___ with next one on ___.  
- COPD
- PE, on xarelto
- Neuropathy ___ chemo
- sCHF, chronic (patient thinks EF 45-55%)

 
Social History:
___
Family History:
Mother passed away from unspecified GI cancer. 
 
Physical Exam:
ADMISSION EXAM:
VS: 97.5, 107/69, 85, 16, 98 RA
General: slightly uncomfortable, anxious-appearing man in NAD, 
AO X 3
HEENT: Anicteric sclerae, MMM
Neck: ___ J collar in place
Chest: CTA-B, no w/r/r
CV: RRR s1 s2 normal, no m/g/r
Abd: soft, NT/ND, NABS
Back: collar in place and not removed.  Rest of the spine with 
no TTP, except for low LS spine, which per patient is baseline
Neurologic: AO x 3, CN II-XII intact.  Normal strength UE and 
___, symmetric.  Sensation to light touch intact throughout.  
Reflexes 2+ b/l in triceps, biceps, patellar, Achilles.  No 
clonus detected on my exam.  Normal rectal tone and perianal 
sensation as per Neurosurgery eval in the ED.  Normal gait. 
Ext: no c/c/e, wwp 

DISCHARGE
VS: 97.6 118/78 82 16 97%RA 
Gen - sitting up in bed, comfortable appearing, wearing ___ 
collar
Eyes - EOMI
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - CTA bilaterally
Abd - soft nontender, normoactive bowel sounds
Ext - no edema
Skin - no rashes
Vasc - 2+ DP/radial pulses
Neuro - AOx3, ___ distally in upper and lower extremities; 
Psych - appropriate, pleasant 
 
Pertinent Results:
ADMISSION LABS:
___ 06:50PM   CALCIUM-8.1* PHOSPHATE-3.0 MAGNESIUM-1.8
___ 06:50PM   GLUCOSE-118* UREA N-12 CREAT-1.0 SODIUM-136 
POTASSIUM-3.2* CHLORIDE-101 TOTAL CO2-26 ANION GAP-12

 
Brief Hospital Course:
This is a ___ year old male with past medical history of multiple 
myeloma with known disease involvement of C-spine on Pomalist 
and radiation being treated at ___, chronic 
pulmonary embolism on Xarelto, COPD, admitted 
___ with acute-on-chronic cervical radiculopathy found to 
have pathological fractures without signs or symptoms of acute 
spinal cord compression, now status post spine service 
evaluation, recommended for ___ J-collar, continued radiation 
therapy, with outpatient spine clinic follow-up, discharged home

Multiple Myeloma with Spinal Involvement / Acute Cervical Neck 
Pain - Patient presented with worsening neck pain in setting of 
ongoing therapy for known cervical involvement of multiple 
myeloma; he was referred to ___ for surgical evaluation.  
Patient was seen by spine service, who felt that OSH MRI showed 
compression of cervical canal, but that exam was not clinically 
concerning for cord compression.  They recommended ___ 
collar with consideration for surgical fusion once local 
radiation course has been completed.  For his pain symptoms, his 
home PO oxycodone was change to PO dilaudid with improved 
symptom control---this was discussed with outpatient provider 
(who agreed) and ___ was reviewed. Patient was instructed to 
wear the ___ collar x 6 weeks, and will be scheduled in 
___ Spine clinic in 2 weeks (he will be called at home with 
appointment.  Patient to see outpatient oncologist and radiation 
oncologist on ___

# Chronic Neuropathy - Continued gabapentin

# Chronic Pulmonary Embolism - Continued xarelto

# COPD - continued home symbicort 

TRANSITIONAL ISSUES:
- Discharged home with ___ collar, recommended to continue 
for 6 weeks
- Would consider MRI T/L spine to look for other areas of 
potential disease involvement (if not done recently)
- Provided with limited prescription of augmented opiate regimen 
(PO dilaudid in place of normal PO oxycodone) for neck pain, to 
be reassessed as outpatient
- Patient to follow-up with outpatient oncologist and radiation 
oncologist
- Working on outpatient 2 week spine clinic follow-up for 
patient--he will be called with appointment

> 30 minutes spent on this discharge 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rivaroxaban 20 mg PO DAILY 
2. Gabapentin 300 mg PO TID 
3. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
4. Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB 
5. Multivitamins 1 TAB PO DAILY 
6. OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - Moderate 


 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H 
RX *acetaminophen 325 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*50 Tablet Refills:*0 
2.  HYDROmorphone (Dilaudid) 4 mg PO Q6H:PRN Pain - Moderate 
RX *hydromorphone 4 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*15 Tablet Refills:*0 
3.  Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB  
4.  Gabapentin 300 mg PO TID  
5.  Multivitamins 1 TAB PO DAILY  
6.  Rivaroxaban 20 mg PO DAILY  
7.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Multiple Myeloma with Spinal Involvement / Acute Cervical Neck 
Pain 
# Chronic Neuropathy
# Chronic Pulmonary Embolism
# COPD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

It was a pleasure caring for you at ___.  You were admitted 
for neck pain.  You were seen by spine specialists who 
recommended you wear a hard neck brace ___ collar") AT ALL 
TIMES.  They did not recommend any operation at this time, but 
they would like to see you in 2 weeks to discuss whether or not 
you might need surgery in the future.  

We started you on an increased pain regimen and your pain 
improved.  You are now ready for discharge home. 

You will see your Oncologist on ___ (they will call you for 
an appointment) and your Radiation Oncologist on ___ as well 
for your ___ treatment.  Please discuss with your oncologist 
regarding getting an MRI of the rest of your spine to assess the 
state of the myeloma.
 
Followup Instructions:
___